US07871998B2
N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-2-butylnorleucine
N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine (0.020 g, 0.037 mmol) and NMM (0.040 ml, 0.363 mmol) were dissolved in DCM (5 ml) at 30° C. TBTU (a total of 0.016 g, 0.050 mmol) were added in portions and the mixture was stirred for 1 h. 2-Butylnorleucine (0.007 g, 0.037 mmol) was added and the mixture was stirred at 30° C. for 18 h. The reaction mixture was concentrated under reduced pressure and the residue was purified by preparative HPLC, using a gradient of 20-50% MeCN in 0.1M ammonium acetate buffer as eluent. After freeze-drying, 0.009 g (34% yield) of the title product was obtained as a white solid. M/z: 710.1. 1H NMR (DMSO, 400 MHz): δ 0.73-0.82 (m, 6H), 0.88-1.22 (m, 8H), 1.56-1.69 (m, 2H), 1.96-2.07 (m, 2H), 3.71 (d, 2H), 4.32 (d, 1H), 4.36 (ABq, 2H), 4.52 (s, 2H), 5.16 (d, 1H), 6.95-7.01 (m, 2H), 7.11-7.26 (m, 4H), 7.30-7.40 (m, 4H), 7.61 (s, 1H), 7.98-8.06 (m, 2H), 8.25-8.42 (m, 1H).

reactant | N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine | 0.037 mmol, 0.020 g | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)O)C=C1 | C27H22F2N2O6S
reactant | NMM | 0.363 mmol, 0.040 ml | CN1CCOCC1 | C5H11NO
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 2-Butylnorleucine | 0.037 mmol, 0.007 g | C(CCC)C(N)(CCCC)C(=O)O | C10H21NO2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-2-butylnorleucine | 0.009 g, 34% yield | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)NC(CCCC)(C(=O)O)CCCC)C=C1 | C37H41F2N3O7S
